US05621009
(3) Preparation of ethyl ferulate
Ferulic acid (4.85 g) and then ethyl alcohol (50 ml) containing hydrogen chloride (4%) were placed in an egg-plant type flask (200 ml), and heated under reflux for 2.5 hours. The disappearance of the starting material was confirmed by TLC (n-hexane/ethyl acetate=2/1), then the solvent was evaporated under reduced pressure by a rotary evaporator. Benzene was added to the residue, and then, the solvent was again evaporated by a rotary evaporator to obtain the wine-colored crude product (5.79 g). The resulting crude product was separated and purified by silica gel column chromatography (diameter=5.5×7.0 cm; 60 g; n-hexane/ethyl acetate=3/1) to obtain the above-identified compound (5.06 g; 91.2%). The product was crystallized from n-hexane to obtain a white crystal (4.743 g, 85.3%). Melting point: 41°-43° C.

reactant | Ferulic acid | 4.85 g | C(\C=C\C1=CC(OC)=C(O)C=C1)(=O)O | C10H10O4
reactant | ethyl alcohol | 50 ml | C(C)O | C2H6O
reactant | hydrogen chloride | Cl | ClH
solvent | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
product | ethyl ferulate | 4.743 g, 85.3% | C(\C=C\C1=CC(OC)=C(O)C=C1)(=O)OCC | C12H14O4
